US07943669B2
Step B: [4-(3-Isobutoxy-5-phenylethynyl-benzylsulfanyl)-2-methyl-phenoxy]-acetic Acid
[4-(3-Isobutoxy-5-phenylethynyl-benzylsulfanyl)-2-methyl-phenoxy]-acetic acid ethyl ester (130 mg; 0.27 mmol) was dissolved in ethanol (15 mL), and aqueous 1 N sodium hydroxide (3 mL) was added. The reaction mixture was stirred for 16 h. acidified with 1 N aqueous hydrochloric acid and extracted with ethyl acetate. The organic phase was dried and evaporated to dryness, redissolved in dichloromethane and evaporated to dryness. Yield: 120 mg (97%). HPLC-MS: m/z: 461.7 (M+H)+; Rt: 2.82 min.

reactant | [4-(3-Isobutoxy-5-phenylethynyl-benzylsulfanyl)-2-methyl-phenoxy]-acetic acid ethyl ester | 0.27 mmol, 130 mg | C(C)OC(COC1=C(C=C(C=C1)SCC1=CC(=CC(=C1)C#CC1=CC=CC=C1)OCC(C)C)C)=O | C30H32O4S
reactant | sodium hydroxide | 1 N, 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | [4-(3-Isobutoxy-5-phenylethynyl-benzylsulfanyl)-2-methyl-phenoxy]-acetic Acid | C(C(C)C)OC=1C=C(CSC2=CC(=C(OCC(=O)O)C=C2)C)C=C(C1)C#CC1=CC=CC=C1 | C28H28O4S
